US09352049B2
To (S)-4-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-5-methoxy-5-oxopentanoic acid (240 mg, 0.53 mmol, crude), triethylamine (0.3 mL, 2.2 mmol), and tert-butyl 2-(2-(2-aminoethoxy)ethoxy)ethylcarbamate (150 mg, 0.60 mmol) in N,N-dimethylformamide (3 mL), 2-(2-pyridon-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (261 mg, 0.88 mmol) was added in one portion. The reaction was stirred at ambient temperature for 16 hours. After this time, the product was crashed out with diethyl ether and collected by suction filtration. The solids were washed with methylene chloride (30 mL) to afford crude (S)-methyl 18-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,15-dioxo-3,8,11-trioxa-5,14-diazanonadecan-19-oate (225 mg, 62%) as an orange-brown solid, which was used in the next step without further purification: MM-APCI MS m/z=684 [M−H]−.

reactant | (S)-4-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-5-methoxy-5-oxopentanoic acid | 0.53 mmol, 240 mg | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)OC)C=C1 | C20H21N7O6
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-(2-(2-aminoethoxy)ethoxy)ethylcarbamate | 0.60 mmol, 150 mg | NCCOCCOCCNC(OC(C)(C)C)=O | C11H24N2O4
reactant | 2-(2-pyridon-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.88 mmol, 261 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (S)-methyl 18-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,15-dioxo-3,8,11-trioxa-5,14-diazanonadecan-19-oate | 225 mg, 62% | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@@H](CCC(NCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC)C=C1 | C31H43N9O9
